US08114874B2
N-(3-(Imidazo[1,2-b]pyridazin-3-ylethynyl)-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide
The title compound was synthesized from 3-ethynylimidazo[1,2-b]pyridazine and N-(3-iodo-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide in a manner similar to that described for Example 14. The product was obtained as a solid: 533 m/z (M+H).

reactant | 3-ethynylimidazo[1,2-b]pyridazine | C(#C)C1=CN=C2N1N=CC=C2 | C8H5N3
reactant | N-(3-iodo-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide | IC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C21H23F3IN3O
product | N-(3-(Imidazo[1,2-b]pyridazin-3-ylethynyl)-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide | N=1C=C(N2N=CC=CC21)C#CC=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)=O | C29H27F3N6O
